US07767675B2
Step 1. tert-butyl 4-[5-(2-aminopyrimidin-5-yl)pyridin-2-yl]piperazine-1-carboxylate
Sodium carbonate (1.59 g) in water (6.0 mL) was added to a mixture of tert-butyl 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]piperazine-1-carboxylate (0.205 g, 0.526 mmol), 5-bromopyrimidin-2-amine (0.0940 g, 0.54 mmol) and tetrakis(triphenylphosphine)palladium (35 mg, 0.03 mmol) in ethanol (6.0 mL) and toluene (6.0 mL). The resulting mixture was heated at 120° C. for 1 h. The mixture was diluted with EtOAc and water. The precipitate was collected by filtration to give the desired product (120 mg, 63.9%). LCMS: (M+H)=357.1.

reactant | Sodium carbonate | 1.59 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 4-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]piperazine-1-carboxylate | 0.526 mmol, 0.205 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C20H32BN3O4
reactant | 5-bromopyrimidin-2-amine | 0.54 mmol, 0.0940 g | BrC=1C=NC(=NC1)N | C4H4BrN3
solvent | water | 6.0 mL | O | H2O
solvent | ethanol | 6.0 mL | C(C)O | C2H6O
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-[5-(2-aminopyrimidin-5-yl)pyridin-2-yl]piperazine-1-carboxylate | 120 mg, 63.9% | NC1=NC=C(C=N1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24N6O2
